US05472973
3-(9-Fluorenyl)propionic acid was prepared from 2-(9-fluorenyl)ethyl-1,3-dioxolane (50.0 g, 187 mmol) which was dissolved in 20 ml of acetone and 450 ml of Jones' reagent (64 g chromic acid and 64 ml of sulfuric acid in 400 ml of water). After the reaction was complete, the acetone was evaporated, the residue taken into ethyl acetate, washed with water, and organic layer extracted with 1N sodium hydroxide which was acidified with 10% HCl to yield a tan precipitate. FTIR 1954, 1913, 1707, 1429, 1316, 1257, 1208, 948, 933, 735 cm-1. 1H NMR (300 MHz, DMSO-dis) δ 1.84 (t, 2H, J=7.5 Hz), 2.21 (m, 2H), 4.03 (t, 2H, J=5.5 Hz), 7.28-7.38 (m, 4H), 7.56 (d, 2H, J=7.0 Hz), 7.84 (d, 2H, J=7.0 Hz).

reactant | 2-(9-fluorenyl)ethyl-1,3-dioxolane | 187 mmol, 50.0 g | C1=CC=CC=2C3=CC=CC=C3C(C12)CCC1OCCO1 | C18H18O2
solvent | acetone | 20 ml | CC(=O)C | C3H6O
solvent | Jones' reagent | 450 ml, 64 g | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
product | 3-(9-Fluorenyl)propionic acid | C1=CC=CC=2C3=CC=CC=C3C(C12)CCC(=O)O | C16H14O2
